US05958918
B. Quinoline-6-sulfonic acid {1-[3-cyanobenzyl]-2-oxopyrrolidin-3-(S)-yl}amide
3-(3-(S)-Amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride (0.32 g, 1.26 mmol) is suspended in 15 mL of CH3CN. To the solution is added triethylamine (0.384 g, 3.78 mmol) followed by quinoline-6-sulfonyl chloride (0.25 g, 0.99 mmol). After stirring for 1.5 hours, the solution is diluted with EtOAc and washed with 0.1 N aqueous HCl, water and saturated NaCl solution. The organic layer is dried over Na2SO4, filtered and concentrated. The crude residue is purified by column chromatography (4% MeOH/CH2Cl2) to afford the title compound (0.146 g, 0.36 mmol) and as a solid.

reactant | 3-(3-(S)-Amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | 1.26 mmol, 0.32 g | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | triethylamine | 3.78 mmol, 0.384 g | C(C)N(CC)CC | C6H15N
reactant | quinoline-6-sulfonyl chloride | 0.99 mmol, 0.25 g | N1=CC=CC2=CC(=CC=C12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Quinoline-6-sulfonic acid {1-[3-cyanobenzyl]-2-oxopyrrolidin-3-(S)-yl}amide | 0.36 mmol, 0.146 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2C=C3C=CC=NC3=CC2)=O)C=CC1 | C21H18N4O3S
